US05854268
2. (3R)-3-[(4-Fluorobenzylthio)methyl]pyrrolidine
A solution of (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylthio)methyl]pyrrolidine (0.5422 g, 1.67 mmol) in 90% formic acid (5 ml) was stirred at room temperature for 23 h. The solvents were removed in vacuo and the residue was dissolved in dichloromethane (25 ml) and washed with 2N NaOH solution (10 ml). The aqueous layer was reextracted with more dichloromethane (25 ml) and the combined organic extracts were washed with saturated NaCl solution (10 ml), dried (Na2SO4) and evaporated in vacuo to leave 0.3903 g of the title compound as an oil. δH (360 MHz, CDCl3) 1.42 (1H, m), 1.94 (1H, m), 2.24 (1H, m), 2.45 (2H, m), 2.59 (1H, m), 2.92 (2H, m), 3.08 (1H, m), 3.69 (2H, s), 7.00 (2H, t, J=8.6 Hz), 7.25-7.29 (2H, m).

reactant | (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylthio)methyl]pyrrolidine | 1.67 mmol, 0.5422 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CSCC1=CC=C(C=C1)F | C17H24FNO2S
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | (3R)-3-[(4-Fluorobenzylthio)methyl]pyrrolidine | 0.3903 g | FC1=CC=C(CSC[C@H]2CNCC2)C=C1 | C12H16FNS
